US07829565B2
Synthesis of 5-{4-[4-(5-cyano-2-oxo-2,3-dihydro-1H-indol-3-yl)butyl]-piperazin-1-yl}benzofuran-2-carboxamide
4.78 g (10 mmol) of 5-{4-[4-(5-cyano-3-indolyl)butyl]-1-piperazinyl}benzo-furan-2-carboxamide are dissolved in 28.4 ml of hot DMSO. After cooling to room temperature, 66.4 ml of conc. HCl are added dropwise with stirring. The batch temperature is held at 24° C. by cooling by means of an ice bath. When the addition of HCl is complete, the batch is stirred at room temperature for 10 h. The crystal slurry is subsequently stirred with 50 ml of acetone, filtered off with suction and rinsed with acetone, isopropanol and diethyl ether. The resultant crystals were dried in air.

reactant | 5-{4-[4-(5-cyano-3-indolyl)butyl]-1-piperazinyl}benzo-furan-2-carboxamide | 10 mmol, 4.78 g | C(#N)C=1C=C2C(=CNC2=CC1)CCCCN1CCN(CC1)C=1C=CC2=C(C=C(O2)C(=O)N)C1 | C26H27N5O2
reactant | HCl | 66.4 ml | Cl | ClH
reactant | acetone | 50 ml | CC(=O)C | C3H6O
solvent | DMSO | 28.4 ml | CS(=O)C | C2H6OS
product | 5-{4-[4-(5-cyano-2-oxo-2,3-dihydro-1H-indol-3-yl)butyl]-piperazin-1-yl}benzofuran-2-carboxamide | C(#N)C=1C=C2C(C(NC2=CC1)=O)CCCCN1CCN(CC1)C=1C=CC2=C(C=C(O2)C(=O)N)C1 | C26H27N5O3
